### ISSUE TITLE
Nested `have ... := by` tactic parses with ERROR and consumes following tactic

### ISSUE THREAD

**Issue by dududuguo** [Julian/tree-sitter-lean#18]
### Reproduction

With current `main` (`dc5997b`), this valid Lean tactic block parses with an `ERROR` node:

```lean
example : True := by
  have h : True := by
    exact trivial
  exact h
```

Run:

```sh
tree-sitter parse --grammar-path . repro.lean
```

### Actual parse shape

The nested `by` is wrapped in `ERROR`, and the following sibling tactic `exact h` is consumed as the `have` value:

```scheme
stmt: (have
  name: (identifier)
  type: (true_const)
  (ERROR
    (by
      stmt: (app
        fn: (identifier)
        arg: (identifier))))
  value: (app
    fn: (identifier)
    arg: (identifier)))
```

### Expected parse shape

The `have` value should be the nested `by` block, and `exact h` should remain a sibling statement:

```scheme
stmt: (have
  name: (identifier)
  type: (true_const)
  value: (by
    stmt: (app
      fn: (identifier)
      arg: (identifier))))
stmt: (app
  fn: (identifier)
  arg: (identifier))
```

### Why this matters

This affects declaration range discovery through `queries/locals.scm` and downstream tools. In a larger theorem, the erroneous recovery can extend the previous theorem node far enough to swallow the next top-level theorem, so the next declaration is not captured as its own node.

I first saw this on a file where a long `calc` proof was followed by another theorem; the second theorem was valid Lean and checkable, but tree-sitter's recovered range attached it to the previous theorem.

### Notes

I also tried two small grammar directions locally:

- adding a conflict for `_lead_term` / `have`
- increasing precedence for `by` as a lead term

The first did not change the parse; the second made parser generation much heavier. I am opening the issue rather than sending an unvalidated grammar patch.
